US09227985B2
Step 2. (4S)-2-(1,4-Diazepan-1-yl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine
tert-Butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]-1,4-diazepane-1-carboxylate (53 mg, 0.10 mmol) was treated with a solution of 4.0 M hydrogen chloride in 1,4-dioxane (2.0 mL) for 10 min. The mixture was concentrated and purified by preparative LCMS using pH 10 buffer to give the title compound (28.5 mg, 66%). LCMS calc. for C24H27N6O2 (M+H)+: m/z=431.2. found: 431.3.

reactant | tert-Butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]-1,4-diazepane-1-carboxylate | 0.10 mmol, 53 mg | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)N2CCN(CCC2)C(=O)OC(C)(C)C)C | C29H34N6O4
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | (4S)-2-(1,4-Diazepan-1-yl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 28.5 mg, 66% | N1(CCNCCC1)C1=NC2=CC=C(C3=C2N1[C@H](CO3)C3=NC=CC=C3)C=3C(=NOC3C)C | C24H26N6O2
